US05468898
A solution of 0.3 g (0.9 mmol) of 1-vinyl-3-carbomethoxy-6benzyloxynaphthalene and 0.9 ml (0.9 mmol) of 1.0M BH3.THF complex in 15 ml of THF is stirred at 25° C. for 2 hours. To this is added 1 ml of H2O, 1 ml of 1N NaOH and 1 ml of 30% H2O2 which is then stirred at 25° C. for 2 hours. The mixture is acidified to pH ~1 using 1N HCl and extracted with ethyl acetate. The organics are dried (MgSO4) and concentrated in vacuo. Purification by flash silica gel chromatography using 15% ethyl acetate in hexanes as an eluent affords 0.08 g of 1-hydroxyethyl-3-carbomethoxy-6-benzyloxynaphthalene in the form a yellow oil which is used directly in the next step.

reactant | 1-vinyl-3-carbomethoxy-6benzyloxynaphthalene | 0.9 mmol, 0.3 g | C(=C)C1=CC(=CC2=CC(=CC=C12)OCC1=CC=CC=C1)C(=O)OC | C21H18O3
reactant | NaOH | 1N, 1 ml | [OH-].[Na+]
reactant | H2O2 | 1 ml | OO | H2O2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | H2O | 1 ml | O | H2O
product | 1-hydroxyethyl-3-carbomethoxy-6-benzyloxynaphthalene | 0.08 g | OC(C)C1=CC(=CC2=CC(=CC=C12)OCC1=CC=CC=C1)C(=O)OC | C21H20O4
